US05409886
In 15 ml of dichloromethane containing 2.0 g of pyridine and 1.0 g of N-ethyl-N,N-diisopropylamine, 3.5 g of 2-phenylacetyl chloride was added dropwise to 2.5 g of N-[1-methyl-1-(3,5-dichlorophenyl)ethyl]-N-(1-methyl-2-oxopropyl)amine at room temperature. After stirring at room temperature for 1 hour, the solution was poured into water, and then extracted with ethyl acetate. Next, the solution was washed with a saturated aqueous sodium bicarbonate solution, dried over anhydrous magnesium sulfate, concentrated, and then subjected to column chromatography to obtain 1.7 g of N-[1-methyl-1-(3,5-dichlorophenyl)ethyl]-N-(1-methyl-2-oxopropyl)-2-phenylacetamide.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | N-ethyl-N,N-diisopropylamine | 1.0 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-phenylacetyl chloride | 3.5 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | N-[1-methyl-1-(3,5-dichlorophenyl)ethyl]-N-(1-methyl-2-oxopropyl)amine | 2.5 g | CC(C)(C1=CC(=CC(=C1)Cl)Cl)NC(C(C)=O)C | C13H17Cl2NO
solvent | dichloromethane | 15 ml, 2.0 g | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-[1-methyl-1-(3,5-dichlorophenyl)ethyl]-N-(1-methyl-2-oxopropyl)-2-phenylacetamide | 1.7 g | CC(C)(C1=CC(=CC(=C1)Cl)Cl)N(C(CC1=CC=CC=C1)=O)C(C(C)=O)C | C21H23Cl2NO2
